US05395993
A mixture of 335.4 g (1.28 mol) of triphenylphosphine, 266.6 g (1.0 mol) of 78% pure 8-bromo-1-octanol and 450 ml of 1-pentanol is stirred at 110° C. for 5 h. After cooling to 20° C. 140 g (2.6 mol) of sodium methylate are added, when the temperature rises to 60° C. The mixture is stirred for 2 h and 92.3 g (1.28 mol) of butyraldehyde are added dropwise. The mixture is stirred at 20° C. for 12 h and then poured into 350 ml of water, and the organic phase is isolated. Distillation yields 89 g (48%) of 8-dodecenol, boiling point 98°-100°/1 mbar.

reactant | triphenylphosphine | 1.28 mol, 335.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 8-bromo-1-octanol | 1.0 mol, 266.6 g | BrCCCCCCCCO | C8H17BrO
reactant | 1-pentanol | 450 ml | C(CCCC)O | C5H12O
reactant | sodium methylate | 2.6 mol, 140 g | C[O-].[Na+]
reactant | butyraldehyde | 1.28 mol, 92.3 g | C(CCC)=O | C4H8O
solvent | water | 350 ml | O | H2O
product | 8-dodecenol | 89 g, 48% | C(CCCCCCC=CCCC)O | C12H24O
